Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left arm tingling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 The patient is a ___ woman with past medical history
of hypertension, hyperlipidemia who presents with acute onset
left arm numbness and tingling.
During the day on ___, she mentions that she had a stiff neck,
but she did not think much of it.  She attributed the stiffness
to all the heavy lifting she did when she cooked and served
___ for 45 people.  The stiffness has slowly been
getting better in the days after ___ with rest. Patient
reports that she was in her usual state of health on ___ when
going to bed.  She woke up at 5:20 AM which was normal for her,
and noticed that her left arm was completely numb.  She thought
she might have slept on it in a funny position, but this
sensation did not go away after 10 minutes.  During that time,
she developed a sensation of pressure behind her left eye, and
tingling in her lips.  Due to the constant nature of her
symptoms, she decided to present to ___ for further
evaluation.  She says that she has never experienced anything so
abrupt and severe before.  She says that she has previously
intermittently had tingling in her fingertips which she
attributed to anxiety, but she says that this is different.  On
her arrival to the symptoms were beginning to become less
___, she noticed there, that her left arm felt a
little bit weak, but she was still able to lift it off the bed. 
She had a CT head that was normal, and was transferred to ___
for further evaluation.  By the time she arrived in the ED here,
the symptoms were abating, and she was feeling tingling in the
left hand only.  The sensation of pressure behind her left eye,
and the tingling of her lips had abated, after being present for
about ___ hours.  While sitting in the ___ ED, she felt that her
left leg was weak, but she was able to pick it up off the bed,
and after repositioning the sensation went away so she did not
think too much of it.  

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, diplopia,
vertigo, tinnitus, hearing difficulty, dysarthria, or dysphagia.
Denies complete loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN  
HLD    
 
Social History:
___
Family History:
Paternal grandmother with a stroke, aunt on dad's side, maternal
aunt. 
Cousin with blood clots.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
 Vitals: T: 98.9 HR 87 BP 118/79 RR 16 SaO2 100% RA 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, No nuchal rigidity
 Pulmonary: Breathing comfortably on room air
 Cardiac:  good peripheral perfusion
 Abdomen: soft, NT/ND.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty.  Able to discuss current events including
___'s death.  Attentive, able to name ___ 
backward
rapidly without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. Cortical sensory
testing intact in bilateral upper extremities. No extinction to
DSS.

-DTRs:
   ___ Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Can heel walk, toe walk, walk in tandem without
difficulty. Romberg absent.

DISCHARGE PHYSICAL EXAM
98.9 PO 128 / 85 92   98 
 General: Awake, cooperative, NAD.
 HEENT: NC/AT
 Neck: Supple
 Pulmonary: normal WOB on RA
 Cardiac: well perfused
 Abdomen: NT/ND
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Speech was not dysarthric. Able to follow 
both midline and appendicular commands. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
 No adventitious movements, such as tremor, noted. 
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, No extinction to DSS.

-Coordination: No dysmetria on FNF bilaterally.

-Gait: Good initiation.  Able to walk in tandem without 
difficulty. 

 
Pertinent Results:
ADMISSION LABS
--------------
___ 09:26AM BLOOD WBC: 7.5 RBC: 4.29 Hgb: 11.7 Hct: 36.4
MCV: 85 MCH: 27.3 MCHC: 32.1 RDW: 14.2 RDWSD: 43.___ 
___ 09:26AM BLOOD Neuts: 51.1 Lymphs: ___ Monos: 4.9* Eos:
4.2 Baso: 0.7 Im ___: 0.3 AbsNeut: 3.85 AbsLymp: 2.92 AbsMono:
0.37 AbsEos: 0.32 AbsBaso: 0.05 
___ 09:26AM BLOOD Glucose: 113* UreaN: 16 Creat: 1.0 Na: 
145
K: 4.1 Cl: 106 HCO3: 27 AnGap: 12 oh
___ 09:26AM BLOOD ALT: 26 AST: 28 AlkPhos: 154* TotBili: 
0.3
___ 09:26AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:13AM BLOOD %HbA1c-5.6 eAG-114
___ 09:26AM BLOOD Triglyc-58 HDL-50 CHOL/HD-3.0 LDLcalc-90
___ 09:26AM BLOOD TSH-1.5

MRI BRAIN
No acute intracranial process. Specifically, no evidence of 
acute 
infarction. 

MRI C SPINE
1. No evidence of cord compression. There is no signal 
abnormality the 
spinal cord. 
2. Incidental note is made of multiple T2 hyperintense foci 
within the neural 
foramina, likely representing perineural cysts. 

CTA 
  
1. No acute intracranial abnormalities. 
2. The intracranial vasculature appears patent without evidence 
of stenosis, 
occlusion, or aneurysm formation. 
3. The carotid and vertebral arteries and their major branches 
are patent 
without evidence of stenosis or occlusion. No evidence of 
internal carotid 
stenosis per NASCET criteria bilaterally. 

 
Brief Hospital Course:
___ is a ___ woman with past medical history
of hypertension, hyperlipidemia who presented with acute onset
left arm numbness and tingling, left eye pain.

By the time she arrived from ___, her neurological exam 
was unremarkable. She was still experiencing mild symptoms in 
her left hand, but they were resolving and there were no sensory 
deficits to any modality. 

Etiology of patient's symptoms was concerning for a neurologic 
process. CTA head/neck and MRI head/neck were largely 
unremarkable. Symptoms may have been due to TIA, given the 
patient's family history of stroke. She was continued on her 
home medications with the addition of aspirin 81mg qd. She was 
discharged with instructions to follow up in clinic with her 
primary care doctor and neurologist. She was also scheduled for 
outpatient cardiac echo and ___ of hearts monitor.

A1c 5.6
LDL 90

TRANSITIONAL ISSUES
[] Aspirin 81mg qd was started
[] B12, urine culture, RPR pending at time of discharge. These 
will need to be followed up.
[] Follow up with primary care and neurology in clinic. 
Instructions above.
[] Outpatient cardiac echo and ___ monitor. 
Instructions above.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 90) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. lisinopril-hydrochlorothiazide ___ mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient ischemic attack
left hand tingling
hypertension
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
 
 You were hospitalized due to symptoms of arm tingling that may 
have resolved from a transient ischemic attack, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is (transiently) blocked by a clot. 
  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 hypertension
 high cholesterol

 We are changing your medications as follows:  
 [] Aspirin 81mg daily was started.
 
 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___